US08044078B2
a/2.) 3-[(3,4-Dichlorobenzyl)(methyl)amino]propionitrile
From 20 g (88 mmol) N-(3,4-Dichlorobenzyl)methylamine hydrogen chloride salt the base is liberated by the addition of 12.6 ml (90 mmol) triethylamine in 100 ml ethyl acetate solution. The resulting 16.5 g base is dissolved in 170 ml abs. methanol, the solution is cooled to below 0° C. and 5.7 ml (87 mmol) acrylonitrile is added to it. The reaction mixture is stirred at 0° C. for 30 minutes, allowed to reach room temperature, stirred for 30 hours and evaporated to obtain 20 g of the title compound in the form of an oil. LC/MS[MH+]=243 (C11H12Cl2N2 243.14).

reactant | N-(3,4-Dichlorobenzyl)methylamine hydrogen chloride salt | 88 mmol, 20 g | Cl.ClC=1C=C(CCN)C=CC1Cl
reactant | triethylamine | 90 mmol, 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
reactant | acrylonitrile | 87 mmol, 5.7 ml | C(C=C)#N | C3H3N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(3,4-Dichlorobenzyl)(methyl)amino]propionitrile | 20 g | ClC=1C=C(CN(CCC#N)C)C=CC1Cl | C11H12Cl2N2
